US06846835B2
Synthesis of 3-(methylamino)propyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate
To a solution of 41 mg of 3-(benzyl(methyl)amino)propyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate in 2 ml of methanol, 10 mg of palladium hydroxide-carbon catalyst was added, followed by 2 hours' stirring at ambient temperature and pressure in hydrogen atmosphere. The reaction liquid was filtered with Celite. Distilling the solvent off from the filtrate under reduced pressure, 32 mg of the title compound was obtained.

reactant | 3-(benzyl(methyl)amino)propyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate | 41 mg | FC1(C[C@@H](CC1)[C@](C(=O)OCCCN(C)CC1=CC=CC=C1)(C1=CC=CC=C1)O)F | C24H29F2NO3
solvent | methanol | 2 ml | CO | CH4O
catalyst | palladium hydroxide carbon | 10 mg | [OH-].[Pd+2].[OH-].[C]
solvent | hydrogen | [H][H] | H2
product | 3-(methylamino)propyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate | 32 mg | FC1(C[C@@H](CC1)[C@](C(=O)OCCCNC)(C1=CC=CC=C1)O)F | C17H23F2NO3
